US08071592B2
(a) 1-(2-Propen-1-yl)-7-(2-propen-1-yloxy)-1,8-naphthyridin-2(1H)-one
A suspension of 1,8-naphthyridine-2,7(1H,8H)-dione (8.0 g, 49.4 mmol)(prepared according to the method of Newkome, George R et al, Journal of Organic Chemistry (1981), 46(5), 833-9) in DMF (200 ml) was treated under argon with sodium hydride (2.2 g of 60% dispersion with mineral oil, 1.3 g, 55 mmol) then heated to 40° C. for 20 minutes. Allyl bromide (˜5 ml) was added. After 2 hours at 40° C. more sodium hydride (2.2 g of 60% dispersion with mineral oil, 1.3 g, 55 mmol) and allyl iodide (˜5 ml) were added. After a further 1 hour at 40° C. the mixture was cooled to room temperature and quenched with saturated aqueous ammonium chloride (5 ml). The mixture was evaporated and the residue chromatographed eluting with 0-10% ethyl acetate in hexane affording the product as a yellow oil (5.2 g, 45%).

reactant | 1,8-naphthyridine-2,7(1H,8H)-dione | 49.4 mmol, 8.0 g | N1C(C=CC=2C=CC(NC12)=O)=O | C8H6N2O2
reactant | sodium hydride | 55 mmol, 2.2 g | [H-].[Na+]
reactant | Allyl bromide | ˜5 ml | C(C=C)Br | C3H5Br
reactant | sodium hydride | 55 mmol, 2.2 g | [H-].[Na+]
reactant | allyl iodide | ˜5 ml | C(C=C)I | C3H5I
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 1-(2-Propen-1-yl)-7-(2-propen-1-yloxy)-1,8-naphthyridin-2(1H)-one | C(C=C)N1C(C=CC2=CC=C(N=C12)OCC=C)=O | C14H14N2O2
